Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
"I've been a bit distracted."
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
For further details surrounding history and presentation, please 
see OMR including Dr. ___ initial consultation note dated 
___, Dr. ___ note dated ___, and Dr. ___ 
___ admission note dated  ___. 
. 
Briefly, this is a ___ employed, domiciled man, no 
formal psychiatric history, no prior medical history, who 
presented to the emergency department due to concerns of 
significant psychosis in the setting of substantial marijuana 
use.
. 
Per the medical record, upon initial interview, the patient was 
unable to provide a reliable history.  However, patient admitted 
he had recently started smoking marijuana regularly.  He 
described that when he began smoking marijuana, even when he is 
not high, he notices himself hearing music more clearly, seeing 
things more clearly, and felt that marijuana was making him 
smarter.  When asked if he was experiencing auditory 
hallucinations, the patient reported, "sometimes he can tell up 
with your thoughts or someone else's."  He denied visual 
hallucinations, paranoid, or ideas of reference.  Patient also 
reported that "we become more spiritual by breathing; each and 
every day we bring ___ to the role."  Patient denied 
receiving text messages from God, stating that God does not need 
to communicate with humans like him in humans communicate with 
each other.
. 
Collateral obtained from his mother, ___ (___) 
was concerning for acute onset of psychosis in the setting of 
cannabis use. She reported that in ___ the patient had 
stayed overnight at her house which is atypical. At that time, 
the patient reported to his mother that he had recently begun 
smoking marijuana with subsequent paranoia, believing that 
others were out to get him, felt the house was shaking, leading 
him to pray to the Bible as he was quite scared; there were also 
reports the patient was receiving messages from God. The mother 
reported that since this incident that she had not noticed any 
abnormalities in his behavior until approximately 2 days prior 
to admission-- at that time patient did not seem like himself, 
not responding to questions when they talked to him.  He was 
also noted to only drink vegetable juice from ___ for 
the past 7 days in order to "purify" himself.  Patient 
reportedly also appeared to have some sexual fantasy, giggling 
to himself, per the parents observation.  Mr. ___ had been 
staying with his parents for the past 2 days.  On the day of 
presentation, he was brought to the ED, his parents received a 
phone call from the police who reported the residents at the 
patient's workplace known him pacing in the parking lot talking 
to himself.  His
parents then brought him to the emergency department for further 
evaluation.
. 
ED Course: Patient was notably uncooperative and agitated, he 
received Haldol 5 mg p.o. and Ativan 2 mg p.o. with good result.
. 
On my interview with Mr. ___, who was a limited historian 
secondary to disorganized thought process, patient reported that 
he is here because "I was feeling a little distress; I wanted to 
fight my fears and get over the past as much as I can think 
back."  He then went on to state that "a long, long time ago, 
was deeply afraid… Perhaps I had seen, but now that I am all 
grown up to find it that no one else is seen God. Perhaps I can 
think back more."  He admitted to some paranoia, stating that he 
believed his ex-girlfriend ___ cheated on him in the past and 
was contemplating revenge against her but then went on to state 
that "revenge is not always the best thing."
. 
When asked how long he has been feeling "distracted" patient 
reported it is been for approximately the past week stated that 
he had been feeling "worried," but when asked to elaborate on 
this, and he then stated "I do not feel worried." Regarding 
auditory hallucinations, he stated that, "some people are in 
their own thoughts and perhaps I'm in my own voice." Denied 
visual hallucinations. Reported that at times he does feel that 
he has special powers, "sometimes I feel like I have the power 
to do all things... but I haven't." Alluded to thought 
insertion, stating that believes "some people can get into my 
head-- sin can get into my head." Notably hyperreligious on 
examination, stating, "I believe I am a ___, and I've been 
part of ___ family since I was a small boy." Reported he 
wanted to "share the good news with other people by sending out 
quotes, trying to do justice and help people see the heavenly 
father's justice." Of note, remainder of psychiatric history was 
deferred given his unreliable nature. 
. 
With the patient's permission, I talked with his parents and his 
girlfriend, who confirmed the history provided above. Reported 
that patient was last seen in his usual state of health around 
New ___ and was doing well-- working two jobs and 
interactive. At that time, patient did disclose that he had 
recently been smoking cannabis, resulting in paranoia that 
others were out to get him and the sensation that his house was 
shaking. Patient was abstinent from cannabis for a while until 
recently when he was acutely noted to be hypperreligious, acting 
strangely as noted above. They were amenable to continuing his 
hospitalization at this time given how far he was from his 
baseline. 
 
Past Medical History:
Past psychiatric history:
- Diagnoses: None
- SA/SIB: Denies/denies
- Hospitalizations: none
- Therapist: None
- Psychiatrist: None
- Medication Trials: None
.
Past medical history:
None

 
Social History:
Substance use history:
- Alcohol: denies
- Illicits: significant cannabis use as noted above, denies 
other illicits
- Tobacco: denies 
. 
Personal and Social History: ___
Family History:
-Psychiatric Diagnoses: Denies
-Substance Use Disorders: Denies
-Suicide Attempts/Completed Suicides: Denies
 
Physical Exam:
T 98.6, HR 104, BP 135/97, RR 16, SpO2 97% on RA
General:
-HEENT: Normocephalic, atraumatic.  Moist mucous membranes,
oropharynx clear, supple neck.  No scleral icterus.
-Cardiovascular: Regular rate and rhythm, S1/S2 heard, no
murmurs/rubs/gallops. Distal pulses ___ throughout.
-Pulmonary: No increased work of breathing.  Lungs clear to
auscultation bilaterally.  No wheezes/rhonchi/rales.
-Abdominal: Non-distended, bowel sounds normoactive.  No
tenderness to palpation in all quadrants.  No guarding, no
rebound tenderness.
-Extremities: Warm and well-perfused.  No edema of the limbs.
-Skin: No rashes or lesions noted.

Neurological:
-Cranial Nerves:
---I: Olfaction not tested.
---II: PERRL 3 to 2mm, both directly and consentually; brisk
bilaterally.
---III, IV, VI: EOMI without nystagmus
---V: Facial sensation intact to light touch in all 
distributions
---VII: No facial droop, facial musculature symmetric and ___
strength in upper and lower distributions, bilaterally
---VIII: Hearing intact to finger rub bilaterally
---IX, X: Palate elevates symmetrically
---XI: ___ strength in trapezii and SCM bilaterally
---XII: Tongue protrudes in midline
-Motor: Normal bulk and tone bilaterally. No abnormal movements,
no tremor. Strength ___ throughout.
-Sensory: No deficits to fine touch throughout
-DTRs: 2 and symmetrical throughout
Coordination: Normal on finger to nose test, no intention tremor
noted
-Gait: Good initiation.  Narrow-based, normal stride and arm
swing.

Cognition: 
-Wakefulness/alertness: Awake and alert
-Attention: Refuses to do MOYb, spell earth backwards, or do
serial 7s due to preference to not do things backwards; instead
adds 7 to 100: 107=>114=>121=>128=>135
-Orientation: Oriented to person, time, place, situation
-Executive function (go-no go, Luria, trails, FAS): Not tested
-Memory: ___ registration, ___ recall after 5 min ___ with
multiple choice), long-term grossly intact
-Fund of knowledge: Consistent with education; intact to last 3
presidents
-Calculations: 7 quarters = "$1.75"
-Abstraction: Interprets "the grass is always greener on the
other side" as "there's a different side to certain aspects of
life; good side and even better side;" interprets "don't judge a
book by its cover" as "don't look at someone in a fashion that
says you're better than them;" apple/orange are both "fruits,"
___ are both "jewels"
-Visuospatial: Not assessed
-Language: Native ___ speaker, no paraphasic errors,
appropriate to conversation

Mental Status:
-Appearance: ___ man appearing stated age, 
appearing
decently groomed, mildly malodorous, wearing hospital gown, in 
no
apparent distress
-Behavior: Sitting up in chair, maintained eye contact at times,
no psychomotor agitation or retardation
-Attitude: Guarded, making comments of inappropriate affection
towards this writer
-Mood: "Brave"
-Affect: Aloof, blunted
-Speech: Normal rate, volume, and tone
-Thought process: Overly abstract answers with poverty of 
detail,
latency of response, loose associations, evidence of concrete
thinking
-Thought Content:
---Safety: Denies SI/HI
---Delusions: Evidence of hyperreligious 
delusions/preoccupation,
no evidence of paranoia
---Obsessions/Compulsions: No evidence based on current 
encounter
---Hallucinations: Denies AVH, not appearing to be attending to
internal stimuli
-Insight: Limited
-Judgment: Poor

Discharge Examination: 
A/B: Appears stated age, dressed casually with good hygiene and 
grooming, calm, cooperative with interviewer, good eye contact, 
no psychomotor agitation or retardation noted
S: normal rate, volume, prosody 
M: "good." 
A: euthymic, mood congruent, appropriate
TC: denies SI/HI, AVH
TP: linear, goal and future oriented
C: awake, alert and oriented x3 
I/J: fair/fair 
 
Pertinent Results:
___: WBC: 11.1*
___: RBC: 4.72
___: HGB: 13.6*
___: HCT: 39.2*
___: Plt Count: 178

BMP:
___: Na: 140
___: K: 3.7
___: Cl: 101
___: CO2: 23
___: BUN: 6
___: Creat: 0.7
___: Glucose: 113* (If fasting, 70-100 normal, >125
provisional diabetes)

STox:
___: ASA, EtOH, Acetmnphn, Benzo, Barb, Tricyc: NEG

UTox:
___: Benzodiazepine: NEG (Benzodiazepine immunoassay screen
does not detect some drugs,; including Lorazepam, Clonazepam, 
and
Flunitrazepam)
___: Barbiturate: NEG
___: Opiate: NEG (Opiate assay does not reliably detect
synthetic opioids; such as Methadone, Oxycodone, Fentanyl,
Buprenorphine, Tramadol,; Naloxone, Meperidine. See online Lab
Manual for details)
___: Cocaine: NEG
___: Amphetamine: NEG
___: Methadone: NEG (Methadone assay detects Methadone (not
other Opiates/Opioids); Quetiapine (Seroquel) may cause a false
positive result)

UA:
___: Urine pH (Hem): 6.0
___: Urine Glucose (Hem): NEG
___: Urine Protein (Hem): NEG
___: Urine Bilirubin (Hem): NEG
___: Urobilinogen: NEG
___: Urine Ketone (Hem): NEG
___: Urine Blood (Hem): NEG
___: Urine Nitrite (Hem): NEG
___: Urine Leuks (Hem): NEG

___: CT head w/o contrast:
No evidence for an acute intracranial abnormality.
 
Brief Hospital Course:
This is a ___ employed, domiciled man, no formal 
psychiatric history, no prior medical history, who presented to 
the emergency department due to concerns of significant 
psychosis in the setting of substantial marijuana use. 
. 
Interview with patient limited, given frank psychosis but review 
of the medical record and collateral from his family and 
girlfriend concerning for acute onset of psychosis without a 
compelling history of preceding mood symptoms or prodromal phase 
that would be concerning for mood disorder with psychotic 
features or a primary psychotic disorder. Mental status 
examination is concerning for severe psychosis with hyper 
religious delusions, paranoia, disorganized thought process with 
derailments and looseness of associations. 
. 
Given above history and presentation with unremarkable medical 
workup, there is a high suspicion of etiology of presentation 
being secondary to substance use, likely cannabis vs. other 
substance. Family and girlfriend deny any concern for mania or
depression prior to presentation, making mood disorder with 
psychosis less likely. Again, no history concerning for 
prodromal symptoms-- patient was functioning well at work and 
socially prior to admission. 
. 
#. Legal/Safety: Patient was admitted to Deaconess 4 on a 
___, upon admission, he refused to sign a CV. Given the 
severity of his psychosis with concern regarding his ability to 
care for himself with very limited insight, a section 7&8b was 
filed. However, patient's condition had improved significantly 
during his hospitalization with significant clearing of his 
psychosis, and so the 7&8b petition was withdrawn at time of 
discharge prior to court hearing. Of note, he maintained his 
safety throughout his admission on 15 minute checks and not 
require physical or chemical restraints.  

#. Substance induced psychosis:
The patient initially presented to the ___ ED due to worsening 
paranoia and hyper-religious delusions reported by is family. 
These symptoms developed in the setting of recent marijuana use. 
On admission the patient reported hyper-religiosity and denied 
VH, paranoid, IOR, SI, and HI. Mental status exam on admission 
was notable for blunted affect, latent speech pattern, concrete 
thinking, and increase in
sexually themed thoughts. On initial interviews on the inpatient 
unit the patient appeared internally preoccupied with 
disorganized thought process and paranoia/grandiosity. He was 
started on Risperidone (0.5mg PO BID) with PRN Lorazepam. He 
refused these medications early in admission.
.
Initially, the patient's presentation was concerning for 
substance induced psychotic disorder vs a first presentation of 
a primary psychotic disorder. Given the patient's rapid 
improvement with infrequent antipsychotic doses (given patient's 
refusal of medications), his presentation appears most 
consistent with Substance induced psychosis secondary to 
cannabis use as well as cannabis use disorder. By discharge he 
denied ongoing psychotic symptoms with resolution of SI, HI, VH, 
and paranoia. He did not display behavior concerning for 
grandiosity or paranoia. His insight improved during admission. 
The risks and benefits of antipsychotic medication as well as 
lack of treatment was discussed with the patient. He voiced 
understanding of these risks and benefits and was agreeable to 
continuing the low dose Risperidone and Ativan as needed for 
agitation and anxiety. Mr. ___ was also agreeable to 
following up with a counselor at ___ for therapy and 
possible referral to a psychiatrist for ongoing evaluation and 
management of psychosis and substance use. He also follow up 
with his PCP as noted in discharge instructions. Of note, by 
time of discharge he was noted to be compliant in attending 
groups where he participated appropriately. 
.
The team was in frequent contact with the patient's familyduring 
admission. The patient's father reported that the patient had 
returned to his baseline behavior prior to discharge and 
advocated strongly for his son to leave the hospital. 
.
#. Cannabis use disorder: As above, the patient's recent 
cannabis use likely contributed to the patient's admitting 
psychotic symptoms. During admission he was given 
psychoeducation regarding the relationship between cannabis use 
and onset of psychosis. He was strongly encouraged not to use 
cannabis, other substances, or other unregulated herbal 
supplements. He agreed to avoid substance use upon discharge and 
voiced understanding of the risks of substance use upon 
discharge.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
1.  LORazepam 0.5 mg PO Q4H:PRN agitation, anxiety  
RX *lorazepam [Ativan] 0.5 mg 1 tab by mouth twice a day Disp 
#*14 Tablet Refills:*0 
2.  RisperiDONE 0.5 mg PO BID 
RX *risperidone [Risperdal] 0.5 mg 1 tablet(s) by mouth twice a 
day Disp #*15 Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Subtance induced psychotic disorder
cannabis use disorder 
 
Discharge Condition:
A/B: Appears stated age, dressed casually with good hygiene and 
grooming, calm, cooperative with interviewer, good eye contact, 
no psychomotor agitation or retardation noted
S: normal rate, volume, prosody 
M: 'good.' 
A: euthymic, mood congruent, appropriate
TC: denies SI/HI, AVH
TP: linear, goal and future oriented
C: awake, alert and oriented x3 
I/J: fair/fair 

 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Unless a limited duration is specified in the prescription, 
please continue all medications as directed until your 
prescriber tells you to stop or change.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
It was a pleasure to have worked with you, and we wish you the 
best of health.
 
Followup Instructions:
___